US06930120B2
2-o-Tolyloxy-propionic acid ethyl ester
Cesium carbonate (53.86 g, 165.3 mmol) was added to a solution of 2-cresol (10.0 g, 92.5 mmol) in anhydrous DMF (500 mL) at room temperature under an atmosphere of nitrogen. After five minutes, ethyl 2-bromopropionate (16.7 mL, 92.5 mmol, d=1.394) was added rapidly dropwise and the resultant mixture was allowed to stir at 90° C. for 18 h. The reaction mixture was diluted with diethyl ether, then extracted twice with 1N HCl and twice with water. The organic layer was dried over MgSO4 and concentrated in vacuo to provide the title compound (19.7 g, 100%). 1H NMR (400 MHz, CDCl3) δ 7.16 (d, 1H, J=7.43 Hz), 7.11 (t, 1H, J=7.43 Hz), 6.89 (t, 1H, J=7.48 Hz), 6.70 (d, 1H, J=7.43 Hz), 4.75 (q, 1H, J=6.65 Hz), 4.23 (q, 2H, J=6.65 Hz), 2.30 (s, 3H), 1.64 (dd, 3H, J=7.04 Hz, 0.78 Hz), 1.26 (td, 3H, J=7.04 Hz, 0.78 Hz). Rf=0.37 in 25% ether in hexanes.

reactant | Cesium carbonate | 165.3 mmol, 53.86 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-cresol | 92.5 mmol, 10.0 g | C1(=CC=CC=C1O)C | C7H8O
reactant | ethyl 2-bromopropionate | 92.5 mmol, 16.7 mL | BrC(C(=O)OCC)C | C5H9BrO2
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-o-Tolyloxy-propionic acid ethyl ester | 19.7 g, 100% | C(C)OC(C(C)OC1=C(C=CC=C1)C)=O | C12H16O3
